US05152919
That is, 1.23 g of (2S,5S)-5-butoxy-2-hexanol, 0.86 g of benzoic acid and 2.78 g of triphenylphosphine were dissolved in 25 ml of dry ether. Thereto was dropwise added 2.29 g of diethyl azodicarboxylate (DEAD) at room temperature with stirring. The mixture was stirred for 1 hour at room temperature. The reaction mixture was concentrated under reduced pressure. The residue was separated and purified by silica gel column chromatography (eluting solvent: dichloromethane) to obtain 1.56 g of (2R,5S)-5-butoxy-2-hexyl benzoate as a colorless oily substance. 1.56 g of the product was dissolved in 20 ml of methanol. Thereto was dropwise added 516 ml of a 1 N methanol solution of sodium hydroxide at room temperature with stirring. The mixture was stirred for 8 hours at room temperature. The reaction mixture was mixed with 15 ml of water and stirred for 8 hours. To the resulting reaction mixture was added water. Then, extraction with dichloromethane was effected. The extract was dried and concentrated. The residue was subjected to Kugel-rohr distillation under reduced pressure to obtain 0.57 g of the title compound as a colorless oil.

reactant | (2S,5S)-5-butoxy-2-hexanol | 1.23 g | C(CCC)O[C@H](CC[C@H](C)O)C | C10H22O2
reactant | benzoic acid | 0.86 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | triphenylphosphine | 2.78 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 2.29 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | ether | 25 ml | CCOCC | C4H10O
product | (2R,5S)-5-butoxy-2-hexyl benzoate | 1.56 g | C(C1=CC=CC=C1)(=O)O[C@H](C)CC[C@H](C)OCCCC | C17H26O3
